US09359338B2
Step 2: Synthesis of phenyl N-(3-cyclopropyl-4-fluoro-phenyl)carbamate
Add 3-cyclopropyl-4-fluoro-aniline (600 mg, 3.97 mmol), phenyl chloroformate (620 mg, 3.97 mmol) and pyridine (314 mg, 3.97 mmol) in DCM (30 mL), stir at room temperature (25° C.) for 4 hrs. After the reaction is complete, add water (15 mL), extract with EtOAc (15 mL×2), combine the organic layers, wash with 1M HCl solution (15 mL) and brine (15 mL) sequentially, dry over anhydrous Na2SO4. Concentrate under reduced pressure to give a crude product (350 mg) which is used directly without further purification.

reactant | 3-cyclopropyl-4-fluoro-aniline | 3.97 mmol, 600 mg | C1(CC1)C=1C=C(N)C=CC1F | C9H10FN
reactant | phenyl chloroformate | 3.97 mmol, 620 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 3.97 mmol, 314 mg | N1=CC=CC=C1 | C5H5N
reactant | water | 15 mL | O | H2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | phenyl N-(3-cyclopropyl-4-fluoro-phenyl)carbamate | 350 mg | C1(CC1)C=1C=C(C=CC1F)NC(OC1=CC=CC=C1)=O | C16H14FNO2
